US04565654
N-Hydroxy-3-phenylacetamido-2-azetidinone
The N-benzoyloxy-3-(phenylacetylamino)-2-azetidinone is subjected to solvolysis with sodium carbonate in aqueous methyl alcohol by following the conditions described by Example 3 to provide the title compound.

reactant | N-benzoyloxy-3-(phenylacetylamino)-2-azetidinone | C(C1=CC=CC=C1)(=O)ON1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C18H16N2O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl alcohol | CO | CH4O
product | N-Hydroxy-3-phenylacetamido-2-azetidinone | ON1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C11H12N2O3
